US07268159B2
1-(4-Amino-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester was prepared from 1-(4-nitro-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester followed the procedure of Example 1 Step 1: 1H NMR (DMSO-d6) δ 1.10 (t, J=7.2 Hz, 3H), 4.20 (q, J=7.2 Hz, 2H), 5.01 (br s, 2H), 5.55 (s, 2H), 6.45 (d, J=8.5 Hz, 2H), 6.84 (d, J=8.5 Hz, 2H), 7.16-7.20 (m, 3H), 7.35 (td, J=7.3, 1.0 Hz, 1H), 7.62 (dd, J=5.2, 1.2 Hz, 1H), 7.65 (d, J=4.1 Hz, 1H), 7.71 (d, J=8.8 Hz, 1H); MS (ESI) m/z 377 (MH+); 375 ([M−H]−); Anal. calcd for C22H20N2O2S.0.05 TFA C, 69.46; H, 5.29; N, 7.33. Found: C, 69.66; H, 5.04; N, 7.72.

reactant | 1-(4-nitro-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C=1SC=CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C22H18N2O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Amino-benzyl)-3-thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1C=1SC=CC1)CC1=CC=C(C=C1)N | C22H20N2O2S
